US05856556
p-Nitrobenzyl (5R, 6S)-2-[2-(p-nitrobenzyloxycarbonylamino)ethylthio]-6-[(R)-1-(p-nitrobenzyloxycarbonyloxy)ethyl]carbapen-2-em-3-carboxylate.
A mixture of 48 mg of (3S, 4R)-4-([2-(p-nitrobenzyloxycarbonylamino)ethylthio]carbonylmethyl)-3-[(R)-1-(p-nitrobenzyloxycarbonyloxy)ethyl]-1-[1-(p-nitrobenzyloxycarbonyl)-1-triisopropoxyphosphoranylidenemethyl]-2-azetidinone and 30 mg of hydroquinone in 5 ml of xylene was heated at 120° C. under a stream of a nitrogen gas for 13 hours. The xylene was then distilled off and the residue was subjected to chromatography using a Lobar column A eluted with a 2:1 by volume mixture of chloroform and ethyl acetate, to give crude crystals, which were recrystallized from a mixture of benzene and ethyl acetate, affording 19 mg (yield 51%) of colourless prisms, melting at 148°-150° C.

reactant | (3S, 4R)-4-([2-(p-nitrobenzyloxycarbonylamino)ethylthio]carbonylmethyl)-3-[(R)-1-(p-nitrobenzyloxycarbonyloxy)ethyl]-1-[1-(p-nitrobenzyloxycarbonyl)-1-triisopropoxyphosphoranylidenemethyl]-2-azetidinone | 48 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NCCSC(=O)C[C@@H]2[C@H](C(N2C(=P(OC(C)C)(OC(C)C)OC(C)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)[C@@H](C)OC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C43H52N5O18PS
reactant | hydroquinone | 30 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | p-Nitrobenzyl (5R, 6S)-2-[2-(p-nitrobenzyloxycarbonylamino)ethylthio]-6-[(R)-1-(p-nitrobenzyloxycarbonyloxy)ethyl]carbapen-2-em-3-carboxylate | 19 mg, yield 51% | [N+](=O)([O-])C1=CC=C(COC(=O)NCCSC=2C[C@H]3N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]3[C@@H](C)OC(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])=O)C=C1 | C34H31N5O14S
